US08183289B2
N-(4-Chlorophenethyl)-4-hydroxybenzamide (504 mg, 1.83 mmol) was diluted with DMSO (8 mL) and K2CO3 (379 mg, 2.74 mmol) and 3-cyclopropyl-4-fluorobenzaldehyde (300 mg, 1.83 mmol) were added. The reaction was stirred 85° C. overnight. The reaction was cooled to ambient temperature, diluted with ethyl acetate and washed with twice with 10% sodium carbonate, water and brine, and concentrated. The crude material was purified by silica gel chromatography eluting with hexanes:ethyl acetate (3:1) to provide N-(4-chlorophenethyl)-4-(2-cyclopropyl-4-formylphenoxy)benzamide (160 mg, 20.9% yield).

reactant | N-(4-Chlorophenethyl)-4-hydroxybenzamide | 1.83 mmol, 504 mg | ClC1=CC=C(CCNC(C2=CC=C(C=C2)O)=O)C=C1 | C15H14ClNO2
reactant | K2CO3 | 2.74 mmol, 379 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-cyclopropyl-4-fluorobenzaldehyde | 1.83 mmol, 300 mg | C1(CC1)C=1C=C(C=O)C=CC1F | C10H9FO
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-chlorophenethyl)-4-(2-cyclopropyl-4-formylphenoxy)benzamide | 160 mg, 20.9% yield | ClC1=CC=C(CCNC(C2=CC=C(C=C2)OC2=C(C=C(C=C2)C=O)C2CC2)=O)C=C1 | C25H22ClNO3
